US06096771
(e) 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-5-chloro-1,2-benzisoxazole
To a solution of triphenylphosphine (0.87 g) in tetrahydrofuran (10 ml), was added diethyl azodicarboxylate (0.57 g) dropwise with stirring under ice cooling. The reaction mixture was stirred at the same temperature for 10 minutes. Then, 2-(N-t-butoxycarbonylamino)ethanol (0.48 g) and 5-chloro-3-hydroxy-1,2-benzisoxazole (0.51 g) were added to the reaction mixture successively and stirred under ice cooling for 10 minutes and at room temperature for 24 hours. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (4/1) as an eluent. The title compound (0.70 g) was obtained as colorless crystals by crystallization from isopropylether.

reactant | triphenylphosphine | 0.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.57 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(N-t-butoxycarbonylamino)ethanol | 0.48 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
reactant | 5-chloro-3-hydroxy-1,2-benzisoxazole | 0.51 g | ClC=1C=CC2=C(C(=NO2)O)C1 | C7H4ClNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-5-chloro-1,2-benzisoxazole | 0.70 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=C(C=C2)Cl | C14H17ClN2O4
